US06924278B2
A mixture of (3S)-3,5-dimethylmorpholine hydrochloride (8.3 g), di-tert-butyl dicarbonate (14.34 g) and sodium hydroxide (5.48 g) in water (30 ml) were stirred at room temperature overnight. Water (50 ml) and isopropyl ether were added to the mixture and the organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of ethyl acetate and n-hexane (1:9) as an eluent to give (3S,5S)-4-tert-butoxycarbonyl-3,5-dimethylmorpholine (3.55 g) and meso-4-tert-butoxycarbonyl-3,5-dimethylmorpholine (2.84 g) (the former was less polar). (3S,5S)-4-tert-butoxycarbonyl-3,5-dimethylmorpholine (3.55 g) was dissolved in a mixture of dichloromethane (20 ml) and trifluoroacetic acid (20 ml) and the mixture was stirred at room temperature for 2 hours. After removal of the solvent under reduced pressure, 1N sodium hydroxide solution (20 ml) and dichoromethane were added thereto. The organic phase was separated, dried over magnesium sulfate, and was added 4N hydrogen chloride in ethyl acetate (20 ml). The mixture was evaporated in vacuo and the residue was triturated with a mixture of dichloromethane and isopropyl ether to give (3S,5S)-3,5-dimethylmorpholine hydrochloride (1.56 g) as a white solid.

reactant | (3S)-3,5-dimethylmorpholine hydrochloride | 8.3 g | Cl.C[C@@H]1NC(COC1)C
reactant | di-tert-butyl dicarbonate | 14.34 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 5.48 g | [OH-].[Na+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | 30 ml | O | H2O
solvent | Water | 50 ml | O | H2O
product | (3S,5S)-4-tert-butoxycarbonyl-3,5-dimethylmorpholine | 3.55 g | C(C)(C)(C)OC(=O)N1[C@H](COC[C@@H]1C)C | C11H21NO3
